US09108999B2
Preparation of intermediate chiral 1-((2R,3R,4R)-3-fluoro-4-hydroxy-3-methyl-5-methylene-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione
Chiral 1-((2R,3R,4R,5S)-3-fluoro-4-hydroxy-5-(iodomethyl)-3-methyl-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione (8.2 g, 22 mmol) was dissolved in MeOH (100 mL) and NaOMe (3.73 g, 69 mmol) was added into it under nitrogen atmosphere, after addition, the mixture was heated to 65° C. and stirred under nitrogen atmosphere for 14 hrs, TLC showed that the SM was consumed, then the mixture cooled to r.t., IR-120 (H) ion exchange resin was added into it to adjust the pH to 8, filtered and removed solvent by reduced pressure, the crude product was purified by silica gel chromatography column (DCM:MeOH=15:1) to afford the title compound as a white solid (3.3 g, 59%).

reactant | 1-((2R,3R,4R,5S)-3-fluoro-4-hydroxy-5-(iodomethyl)-3-methyl-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione | 22 mmol, 8.2 g | F[C@]1([C@@H](O[C@@H]([C@H]1O)CI)N1C(NC(C=C1)=O)=O)C | C10H12FIN2O4
reactant | NaOMe | 69 mmol, 3.73 g | C[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | 1-((2R,3R,4R)-3-fluoro-4-hydroxy-3-methyl-5-methylene-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione | 3.3 g, 59% | F[C@]1([C@@H](OC([C@H]1O)=C)N1C(NC(C=C1)=O)=O)C | C10H11FN2O4
